US07067537B2
ii) Production of 3-cyano-N, 4-dimethylbenzamide
3-Iodo-N, 4-dimethylbenzamide (772 mg), tetrakistriphenylphosphinepalladium (30 mg) and zinc cyanide (250 mg) were suspended in DMF (10 ml) under a nitrogen atmosphere, and the mixture was stirred at 120° C. for 12 hrs. The reaction mixture was diluted with 5% aqueous ammonia-ethyl acetate and the organic layer was washed with water and saturated brine. The organic layer was dried and concentrated, and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1–0:1) for purification. The eluate was recrystallized from ethyl acetate-hexane to give the title compound (300 mg) as colorless powder crystals.

reactant | 3-Iodo-N, 4-dimethylbenzamide | 772 mg | IC=1C=C(C(=O)NC)C=CC1C | C9H10INO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ammonia ethyl acetate | N.C(C)(=O)OCC
catalyst | tetrakistriphenylphosphinepalladium | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 250 mg | [C-]#N.[Zn+2].[C-]#N
product | 3-cyano-N, 4-dimethylbenzamide | 300 mg | C(#N)C=1C=C(C(=O)NC)C=CC1C | C10H10N2O
